US05606030
Preparation of Maleimidoethane Phosphonic Acid, (MEPA)
Ethoxy carbonyl maleimide, 169 mg, was added to 2-aminoethyl phosphonic acid, 125 mg, and sodium carbonate, 106 mg, in 1 ml of water at 0° C. The mixture was stirred for 20 minutes, then 4 ml of water was added and the mixture was stirred at room temperature for 1 hr. The solution was acidified to pH 5.5 with dilute sulfuric acid and concentrated in vacuo to 1 ml. The product was isolated by chromatography on three 1000μ reverse-phase TLC plates developed in water. Four bands were noted on examination of the developed plates under U.V. light. The third band at 15-16.7 cm from the origin was isolated; 100 mg of maleimidoethane phosphonic acid-sodium salt was recovered as an amorphous powder. The 200 MHZ NMR spectrum in D2O showed the maleimide hydrogens as a singlet at 7,2 ppm and the ethylene hydrogens as multiplets at 4.0 and 2.2 ppm.

reactant | Ethoxy carbonyl maleimide | C(C)OC(=O)C=1C(=O)NC(C1)=O | C7H7NO4
reactant | 2-aminoethyl phosphonic acid | NCCP(O)(O)=O | C2H8NO3P
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 1 ml | O | H2O
solvent | water | 4 ml | O | H2O
product | Maleimidoethane Phosphonic Acid | C1(C=CC(N1C(C)P(O)(=O)O)=O)=O | C6H8NO5P
